US07608639B2
3-{2-Methyl-4-[3-methyl-5-(2-pyridin-4-yl-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid
The title compound is prepared by reacting the compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with 4-pyridyl boronic acid as in Example 38 to afford 0.011 g (9%). 1HNMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C29H24NO4F3 507, found 508 (M+1, 100%).

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-methyl-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)C)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C26H24BrF3O4
reactant | 4-pyridyl boronic acid | N1=CC=C(C=C1)B(O)O | C5H6BNO2
product | 3-{2-Methyl-4-[3-methyl-5-(2-pyridin-4-yl-4-trifluoromethyl-phenoxy)-phenoxy]-phenyl}-propionic acid | CC1=C(C=CC(=C1)OC1=CC(=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)C1=CC=NC=C1)C)CCC(=O)O | C29H24F3NO4
